US06521643B1
To a suspension of 4-(4-methylpyridin-2-yl)-2-nitrocinnamonitrile (1.32 g) in acetic acid (5 ml) and N,N-dimethylformamide (5 ml) was added iron powder (1.63 g), and the mixture was stirred at 100° C. for 3 hours. After cooling, the reaction mixture was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 50 g, 5-10% methanol in dichloromethane). The compound obtained was dissolved in ethyl acetate, and a solution of hydrogen chloride in 1,4-dioxane (4N, 1 ml) was added. The precipitate was collected by filtration and dried to give 2-amino-7-(4-methylpyridin-2-yl)quinoline dihydrochloride (482 mg).

reactant | 4-(4-methylpyridin-2-yl)-2-nitrocinnamonitrile | 1.32 g | CC1=CC(=NC=C1)C1=CC(=C(C=CC#N)C=C1)[N+](=O)[O-] | C15H11N3O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 4N, 1 ml | O1CCOCC1 | C4H8O2
catalyst | iron | 1.63 g | [Fe] | Fe
product | 2-amino-7-(4-methylpyridin-2-yl)quinoline dihydrochloride | 482 mg | Cl.Cl.NC1=NC2=CC(=CC=C2C=C1)C1=NC=CC(=C1)C | InChI=1S/C15H13N3.2ClH/c1-10-6-7-17-13(8-10)12-3-2-11-4-5-15(16)18-14(11)9-12;;/h2-9H,1H3,(H2,16,18);2*1H
